US03966783
5-(4-Chlorobenzoyl)pentanoylferrocene
5-(4-Chlorobenzoyl)pentanoyl chloride (5.2g -- 0.02 mole) -- prepared as described above -- and ferrocene (3.75g -- 0.02 mole) were dissolved in dry dichloromethane (100 ml) and cooled to -20°C. Aluminium chloride (2.70g -- 0.02 mole) was added, with stirring, over a period of one-half hour and stirring was continued at -20°C for 11/2 hours. The reaction mixture was poured into water (300 ml) acidified with 2N hydrochloric acid (20 ml). The dichloromethane layer was separated and the aqueous layer extracted with chloroform (3 × 100 ml). The combined organic extracts were washed with water (100 ml), saturated aqueous sodium bicarbonate solution (100 ml) and water (100 ml), dried (MgSO4) and concentrated affording the crude product (9.8g) as a brown solid. Recrystallisation from petroleum ether (bp 60°-80°) afforded the title compound (3.23g -- 40%) mp 103°-6°.

reactant | 5-(4-Chlorobenzoyl)pentanoyl chloride | 0.02 mole, 5.2g | ClC1=CC=C(C(=O)CCCCC(=O)Cl)C=C1 | C12H12Cl2O2
reactant | ferrocene | 0.02 mole, 3.75g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | Aluminium chloride | 0.02 mole, 2.70g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | 5-(4-Chlorobenzoyl)pentanoylferrocene | 3.23g, 40% | ClC1=CC=C(C(=O)CCCCC(=O)[C-]2C=CC=C2)C=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C17H16ClO2.C5H5.Fe/c18-15-11-9-14(10-12-15)17(20)8-4-3-7-16(19)13-5-1-2-6-13;1-2-4-5-3-1;/h1-2,5-6,9-12H,3-4,7-8H2;1-5H;/q2*-1;+2
